US07125891B2
3-(2-oxo-2-phenyl-ethylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert butyl ester
3,4-Dihydro-1H-isoquinoline-2,3-dicarboxylic acid-2-tertbutyl ester (2.77 g, 10 mmol) and 2-amino-1 phenyl-ethanone (1.71 g, 10 mmol), and HOBT (1-hydroxybenzo-triazole) (2.70 g, 20 mmol) were dissolved in dichloromethane (100 ml). The solution was cooled to 0° C. and then (4-dimethylamino-butyl)-ethyl-carbodiimide (2.29 g, 12 mmol) was added followed by NMM (N-methyl-morpholine) (1.31 g, 13 mmol).

reactant | 3,4-Dihydro-1H-isoquinoline-2,3-dicarboxylic acid-2-tertbutyl ester | 10 mmol, 2.77 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1C(=O)O | C15H19NO4
reactant | 2-amino-1 phenyl-ethanone | 10 mmol, 1.71 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | HOBT | 20 mmol, 2.70 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (4-dimethylamino-butyl)-ethyl-carbodiimide | 12 mmol, 2.29 g | CN(CCCCN=C=NCC)C | C9H19N3
reactant | NMM | 13 mmol, 1.31 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(2-oxo-2-phenyl-ethylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1C(NCC(C1=CC=CC=C1)=O)=O | C23H26N2O4
